US05723165
To a suspension of 2.81 g (4.7 mmols) of N-benzyloxycarbonyl-β-benzyl-L-aspartyl-D-isoleucine (S)-α-ethylbenzylamide in 150 ml of methanol and 50 ml of water was added 2.0 g of 10% Pd-carbon (water content 50%). The mixture was reduced under hydrogen at room temperature for 5 hours. The catalyst was removed by filtration, and the resulting filtrate was concentrated under reduced pressure to be 20 ml. The crystals thus precipitated were taken out by filtration and dried to obtain 1.22 g (3.4 mmols) of α-L-aspartyl-D-isoleucine (S)-α-ethylbenzylamide.

reactant | N-benzyloxycarbonyl-β-benzyl-L-aspartyl-D-isoleucine (S)-α-ethylbenzylamide | 4.7 mmols, 2.81 g | C(C)[C@@H](C1=CC=CC=C1)NC([C@H](NC([C@@H](NC(=O)OCC1=CC=CC=C1)C(C(O)=O)CC1=CC=CC=C1)=O)[C@H](C)CC)=O | C34H41N3O6
solvent | methanol | 150 ml | CO | CH4O
solvent | water | 50 ml | O | H2O
catalyst | Pd carbon | 2.0 g | [Pd].[C]
product | α-L-aspartyl-D-isoleucine (S)-α-ethylbenzylamide | 3.4 mmols, 1.22 g | C(C)[C@@H](C1=CC=CC=C1)NC([C@H](NC([C@@H](N)CC(O)=O)=O)[C@H](C)CC)=O | C19H29N3O4
